US07678795B2
(1SR,8RS)-5-Cyclobutyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
light yellow solid. MS (ESI): 200.2 (M+). Prepared from bicyclo[2.2.1]heptane-2,3-dione, (2-Cyclobutyl-2-oxo-ethyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | bicyclo[2.2.1]heptane-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | (2-Cyclobutyl-2-oxo-ethyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1CCC1 | C8H15O4P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-Cyclobutyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C1(CCC1)C1=NN=C2C3CCC(C2=C1)C3 | C13H16N2
